US08648066B2
2-Fluoroethylamine hydrochloride salt (282.4 mg, 2.83 mmol) was suspended in 1:1 THF:DCM (6 mL) followed by addition of DIPEA (2.5 mL, 14.35 mmol). The mixture was cooled to 0° C. followed by slow addition of thiophosgene (217 uL, 2.8 mmol) by syringe over five minutes then allowed to slowly warm to room temperature over 30 minutes. 4-Bromobenzene-1,2-diamine (530 mg, 2.8 mmol) was then added and the reaction mixture was allowed to stir at room temperature over an additional 12 h. The mixture was concentrated and the residue partitioned with ethyl acetate and 10% aqueous citric acid. The organic phase was washed twice with additional 10% aqueous citric acid then brine, dried over anhydrous sodium sulfate, filtered and concentrated. The crude mixture of thiourea thus obtained was taken into THF (15 mL) followed by addition of mercury (II) oxide (640 mg, 2.95 mmol). The mixture was brought to reflux for 6 h then stirred an additional 60 h at room temperature. The crude mixture was filtered through a bed of celite with ethyl acetate washing and the filtrate concentrated then taken back into ethyl acetate. The organic solution was washed once with 1 M aqueous hydrochloric acid and the organic phase discarded. The aqueous phase was filtered to remove trace insoluble residue and the filtrate basified to pH 9-10 by dropwise addition of 50% aqueous sodium hydroxide. The aqueous phase was then extracted once with ethyl acetate and the organic solution was washed with brine then dried over anhydrous sodium sulfate, filtered and concentrated to afford crude 5-bromo-N-(2-fluoroethyl)-1H-benzo[d]imidazol-2-amine (390 mg, 53% yield) which was carried forward without further purification. MS (EI) for C9H9BrFN3: 258, 260 (MH+).

reactant | 2-Fluoroethylamine hydrochloride salt | 2.83 mmol, 282.4 mg | Cl.FCCN
reactant | DIPEA | 14.35 mmol, 2.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | thiophosgene | 2.8 mmol, 217 uL | C(=S)(Cl)Cl | CCl2S
reactant | 4-Bromobenzene-1,2-diamine | 2.8 mmol, 530 mg | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
catalyst | mercury (II) oxide | 2.95 mmol, 640 mg | [Hg]=O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-N-(2-fluoroethyl)-1H-benzo[d]imidazol-2-amine | 390 mg, 53% yield | BrC1=CC2=C(NC(=N2)NCCF)C=C1 | C9H9BrFN3
